US07560558B2
Compound 270: 3-(6,7-Dimethoxy-quinolin-4-yloxy)-5,6-dimethyl-[2,3′]bipyridine
5,6-Dimethyl-[2,3′]-bipyridin-3-ol (50 mg), 4-chloro-6,7-dimethoxyquinoline (168 mg), and 4-(N,N-dimethylamino)pyridine (92 mg) were dissolved in 1,2-dichlorobenzene (2.5 ml), and the mixture was stirred at 140° C. overnight. The reaction solution was cooled to room temperature, and the solvent was then removed by distillation under the reduced pressure. The residue was purified by thin layer chromatography using hexane-acetone to give the title compound (81 mg, yield 84%).

reactant | 5,6-Dimethyl-[2,3′]-bipyridin-3-ol | 50 mg | CC=1C=C(C(=NC1C)C=1C=NC=CC1)O | C12H12N2O
reactant | 4-chloro-6,7-dimethoxyquinoline | 168 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
catalyst | 4-(N,N-dimethylamino)pyridine | 92 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | 1,2-dichlorobenzene | 2.5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-(6,7-Dimethoxy-quinolin-4-yloxy)-5,6-dimethyl-[2,3′]bipyridine | 81 mg, yield 84% | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=NC(=C(C1)C)C)C=1C=NC=CC1 | C23H21N3O3
